US06583135B2
Preparation of 2-[2-[2-(1,1-Dimethyl-2-propenyl)-1H-indol-3-yl]ethyl]-1H-isoindole-1,3(2H)-dione
To a solution of 2-[2-(1H-indol-3-yl)ethyl]-1H-isoindole-1,3(2H)-dione (3.77 g, 13.0 mmol) in dry THF (0.13 L) under argon was added NEt3 (1.84 mL, 13.0 mmol). This mixture was cooled to −78° C., and neat t-BuOCl (1.54 mL, 13.0 mmol) was added. The reaction mixture was stirred for 30 min at −78° C. A solution of 9-(3-methyl-2-butenyl)-9-bora-bicyclo[3.3.1]nonane (40 mmol) in hexanes was added. The reaction mixture was stirred for 6 h at −78° C. It was quenched with 1 M aq HCl, and permitted to warm to rt overnight. The reaction mixture was extracted with CH2Cl2. The CH2Cl2 extracts were dried, filtered, and concentrated to give an oil. The oil was purified by silica chromatography to give the title compound: TLC Rf=0.36 (CH2Cl2); MS (ESI+) m/z 381.2, 359.2; 1H NMR (300 MHz, CDCl3) δ 7.91 (1H), 7.88-7.69 (5H), 7.29 (1H), 7.10 (2H), 6.18 (1H), 5.25 (2H), 3.95 (2H), 3.16 (2H), 1.61 (6H).

reactant | 2-[2-(1H-indol-3-yl)ethyl]-1H-isoindole-1,3(2H)-dione | 13.0 mmol, 3.77 g | N1C=C(C2=CC=CC=C12)CCN1C(C2=CC=CC=C2C1=O)=O | C18H14N2O2
reactant | NEt3 | 13.0 mmol, 1.84 mL | CCN(CC)CC | C6H15N
reactant | t-BuOCl | 13.0 mmol, 1.54 mL | C(C)(C)(C)OCl | C4H9ClO
reactant | 9-(3-methyl-2-butenyl)-9-bora-bicyclo[3.3.1]nonane | 40 mmol | CC(=CCB1C2CCCC1CCC2)C | C13H23B
solvent | THF | 0.13 L | C1CCOC1 | C4H8O
product | 2-[2-[2-(1,1-Dimethyl-2-propenyl)-1H-indol-3-yl]ethyl]-1H-isoindole-1,3(2H)-dione | CC(C=C)(C)C=1NC2=CC=CC=C2C1CCN1C(C2=CC=CC=C2C1=O)=O | C23H22N2O2
